* gnetlist -L ../.. -g spice-noqsi -o Gm2.net Gm2.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
.subckt GM2 7 3
Vb 5 Vss 1.8V
V_IP6 6 8 DC 0V  
V_IP5 4 9 DC 0V  
V_IP4 Vdd 1 DC 0V  
V_IP3 Vdd 2 DC 0V  
Rs 9 8 500k      
*
M6 g3 7 6 Vss N1  l=1u w=3u         
M5 3 5 4 Vss N1  l=1u w=3u         
M4 g3 g3 1 1 P1  l=1u w=3u         
M3 3 g3 2 2 P1  l=1u w=3u         
*
I2 8 Vss 40uA
I1 9 Vss 40uA
.ENDS
